US07790752B2
a) 1-(6-Chloro-1H-indol-3-yl)-2,2,2-trifluoro-ethanone
To a solution of 15.0 g (98.9 mmol) 6-chloroindole in 150 ml dry N,N-dimethylformamide were added dropwise under argon 15.8 ml (114 mmol) trifluoroacetic anhydride at 0° C. After stirring at 0° C. for 2 h another portion of 15.8 ml (114 mmol) trifluoroacetic anhydride was added, and stirring was continued for 30 min. Quenching with saturated aqueous sodium carbonate solution was followed by extraction with three portions of ethyl acetate. The combined organic layers were dried over sodium sulfate and concentrated in vacuo. The residue was triturated in tert.-butyl methyl ether. Filtration gave 20.4 g (82%) of the title compound as a white solid. The mother liquor was concentrated in vacuo and triturated in tert.-butyl methyl ether to give another portion of 1.2 g (5%) of the title compound.

reactant | 6-chloroindole | 98.9 mmol, 15.0 g | ClC1=CC=C2C=CNC2=C1 | C8H6ClN
reactant | trifluoroacetic anhydride | 114 mmol, 15.8 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | N,N-dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | 1-(6-Chloro-1H-indol-3-yl)-2,2,2-trifluoro-ethanone | 20.4 g, 82% | ClC1=CC=C2C(=CNC2=C1)C(C(F)(F)F)=O | C10H5ClF3NO
